US07560558B2
Compound 181: 1-[4-Chloro-2-(6,7-dimethoxy-quinolin-4-yloxy)-phenyl]-ethanone
4-Chloro-2-hydroxyacetophenone (45 mg), 4-chloro-6,7-dimethoxyquinoline (60 mg), and 4-dimethylaminopyridine (95 mg) are suspended in o-dichlorobenzene (10 ml) to prepare a suspension which was then stirred at 120° C. overnight and then at 140° C. for 5 hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (11 mg, yield 12%).

reactant | 4-Chloro-2-hydroxyacetophenone | 45 mg | CC(=O)C1=C(C=C(C=C1)Cl)O | C8H7ClO2
reactant | 4-chloro-6,7-dimethoxyquinoline | 60 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 95 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[4-Chloro-2-(6,7-dimethoxy-quinolin-4-yloxy)-phenyl]-ethanone | 11 mg, yield 12% | ClC1=CC(=C(C=C1)C(C)=O)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C19H16ClNO4
